US07776897B2
1-Aminocyclopentanecarbonitrile was added to a solution obtained by heating acetic anhydride and formic acid under stirring and the whole was heated to obtain N-(1-cyanocyclopentyl)-N-phenylformamide.

reactant | 1-Aminocyclopentanecarbonitrile | NC1(CCCC1)C#N | C6H10N2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | C(=O)O | CH2O2
product | N-(1-cyanocyclopentyl)-N-phenylformamide | C(#N)C1(CCCC1)N(C=O)C1=CC=CC=C1 | C13H14N2O
